US04302472
23 ml of a 15% solution of TiCl3 was added to 1.6 g of N-(β-methoxy-ethyl)-N-[4-phenoxy-(4'-nitro)-benzyl]-dichloroacetamide, in 30 ml of acetone; the pH was then adjusted to 3 with 23% HCl. The resulting mixture was stirred at room temperature for 24 hours and then, with cooling, brought to pH 9 with concentrated ammonium hydroxide. The resulting precipitate was removed by filtration and washed with water. The filtrated was extracted several times with chloroform. The combined organic extract was then dried on Na2SO4 and evaporated to dryness to give 1.2 g of N-(β-methoxy-ethyl)-N-[4-phenoxy-(4'-amino)-benzyl]-dichloroacetamide, m.p. 100°-102° C.

reactant | N-(β-methoxy-ethyl)-N-[4-phenoxy-(4'-nitro)-benzyl]-dichloroacetamide | 1.6 g | COCCN(C(C(Cl)Cl)=O)CC1=CCC(C=C1)([N+](=O)[O-])OC1=CC=CC=C1 | C18H20Cl2N2O5
reactant | HCl | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-(β-methoxy-ethyl)-N-[4-phenoxy-(4'-amino)-benzyl]-dichloroacetamide | 1.2 g | COCCN(C(C(Cl)Cl)=O)CC1=CCC(C=C1)(N)OC1=CC=CC=C1 | C18H22Cl2N2O3
